US07071184B2
b. Racemic Allyl-(1-methyl-pent-4-enyl)-amine
Sodium borohydride (2.7 g, 71 mmol) was added portionwise to a stirred solution of allyl-(1-methyl-pent-4-enylidene)-amine (6.5 g, 47 mmol) in MeOH (100 ml) at 0 C. The reaction mixture was stirred for 30 minutes, then warmed to RT. Approximately 90 ml of MeOH was removed from the reaction mixture by rotary evaporation, then the reaction mixture was diluted with ether (200 ml), then extracted with water then brine. The combined organics were dried with MgSO4, filtered, concentrated in vacuo by rotary evaporation to give a pale yellow liquid that was used in the next reaction without further purification (5.2 g, 80%).

reactant | Sodium borohydride | 71 mmol, 2.7 g | [BH4-].[Na+]
reactant | allyl-(1-methyl-pent-4-enylidene)-amine | 47 mmol, 6.5 g | C(C=C)N=C(CCC=C)C | C9H15N
solvent | MeOH | 100 ml | CO | CH4O
product | Racemic Allyl-(1-methyl-pent-4-enyl)-amine | C(C=C)NC(CCC=C)C | C9H17N
